US04294835
5 g of thionyl chloride was added dropwise to the mixture of 10 g of N-(1-hydroxy-2,2,2-trichloroethyl)-2-hydroxybenzamide, 50 ml of carbon tetrachloride and 0.1 g of N,N-dimethylformamide under stirring. After effecting the reaction under reflux for one hour, the solvent was distilled off under reduced pressure to obtain N-(1,2,2,2-tetrachloroethyl)-2-hydroxybenzamide (m.p.: 113°-113.5° C.). Without taking out the compound thus resulted, thereto were added 50 ml of acetone and also 7.2 g of octyl thioglycolate (n), and the mixture was stirred at room temperature for one hour. The solvent was distilled off and the rest was purified by silica gel column chromatography to obtain 3.0 g of N-(1-n-octyloxycarbonylmethylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide as a light yellow oily substance. nD25 1.5031

reactant | thionyl chloride | 5 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-(1-hydroxy-2,2,2-trichloroethyl)-2-hydroxybenzamide | 10 g | OC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H8Cl3NO3
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | N,N-dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
product | N-(1,2,2,2-tetrachloroethyl)-2-hydroxybenzamide | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H7Cl4NO2
